US06969724B2
(±)-cis-7-[(4-Phenylpiperidin-1-yl)methyl]-6,7,8,9-tetrahydro-5H-benzocyclohepten-5-ol
0.15 g (3.8 mmol) of LiAlH4 were added to a solution of 0.33 g (0.95 mmol) of (±)-7-[(4-phenylpiperidin-1-yl)carbonyl]-6,7,8,9-tetrahydro-5H-benzocyclohepten-5-one in 15 mL of dry Et2O at 0° C. and the resulting mixture was heated to reflux overnight. After cooling, the reaction was quenched by the careful addition of 0.5 mL of 2 N NaOH, the suspension was stirred 10 min and then filtered by suction on a Celite pad washing with Et2O. The solvent was removed in vacuo, yielding 0.25 g of the title compound. m.p.=48-50° C.

reactant | LiAlH4 | 3.8 mmol, 0.15 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | (±)-7-[(4-phenylpiperidin-1-yl)carbonyl]-6,7,8,9-tetrahydro-5H-benzocyclohepten-5-one | 0.95 mmol, 0.33 g | C1(=CC=CC=C1)C1CCN(CC1)C(=O)C1CC(C2=C(CC1)C=CC=C2)=O | C23H25NO2
solvent | Et2O | 15 mL | CCOCC | C4H10O
product | (±)-cis-7-[(4-Phenylpiperidin-1-yl)methyl]-6,7,8,9-tetrahydro-5H-benzocyclohepten-5-ol | 0.25 g | C1(=CC=CC=C1)C1CCN(CC1)C[C@H]1C[C@H](C2=C(CC1)C=CC=C2)O | C23H29NO
